US06211387B1
A suspension of magnesium (6.7 g; 0.275 moles) in ethyl ether (125 ml) under stirring and nitrogen flow was added with ethyl bromide (180 mg). A solution of 1,3-dichloro-4-iodobenzene (50 g; 0.183 moles) and ethyl bromide (180 mg) in ethyl ether (100 ml) was dropped in about 1 hour keeping the temperature at 15-20° C. The suspension was stirred for further 2 hours. After decanting the magnesium in excess, the solution was dropped in about 1 hour in a solution of diethyloxalate (29.32 g; 0.2 moles) in ethyl ether (125 ml) cooled to −70° C. At the end of the addition it was stirred at −70° C. for 1 hour, then the temperature was left to rise to 10° C. and the stirring was kept on for another hour. The suspension was added with a saturated solution of NH4Cl (125 ml), the phases were separated and the aqueous one extracted with ethyl acetate (50 ml). The organic phases were washed with a solution of sodium bisulfite and treated with discolouring charcoal. After filtration, the organic solution was distilled under vacuum to give a crude which was purified by chromatography (SiO2; hexane/ethyl ether 9/1) to give 36.2 g of (2,4-dichloro-phenyl)-oxo-acetic acid ethyl ester (yield 80%) as a colourless oil.

reactant | magnesium | 0.275 moles, 6.7 g | [Mg] | Mg
reactant | 1,3-dichloro-4-iodobenzene | 0.183 moles, 50 g | ClC1=CC(=C(C=C1)I)Cl | C6H3Cl2I
reactant | diethyloxalate | 0.2 moles, 29.32 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | NH4Cl | 125 ml | [NH4+].[Cl-]
solvent | ethyl ether | 125 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 125 ml | C(C)OCC | C4H10O
catalyst | ethyl bromide | 180 mg | C(C)Br | C2H5Br
catalyst | ethyl bromide | 180 mg | C(C)Br | C2H5Br
product | (2,4-dichloro-phenyl)-oxo-acetic acid ethyl ester | 36.2 g, yield 80% | C(C)OC(C(=O)C1=C(C=C(C=C1)Cl)Cl)=O | C10H8Cl2O3
